US06949648B2
4-Chloro-3-methyl-1-(2-pyridinyl)-6-(trifluoromethyl)-1H-pyrazolo[3,4-b]quinoline
A solution of 2-[[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]-5-(trifluoromethyl)benzoic acid (14.0 g, 38.6 mmol) in phosphorous oxychloride (27.4 mL, 294 mmol) was heated under reflux for 1 hour. The solution was allowed to cool to room temperature, and the reaction solvent was evaporated under reduced pressure, and the residue was poured into iced water. The solution was neutralized by the addition of a sodium hydroxide solution, and the organic matter was extracted with chloroform. The extract was washed with saturated brine and water and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:chloroform=1:1 to chloroform) to give the title compound (7.07 g, 50% yield).

reactant | 2-[[3-methyl-1-(2-pyridinyl)-1H-pyrazol-5-yl]amino]-5-(trifluoromethyl)benzoic acid | 38.6 mmol, 14.0 g | CC1=NN(C(=C1)NC1=C(C(=O)O)C=C(C=C1)C(F)(F)F)C1=NC=CC=C1 | C17H13F3N4O2
reactant | phosphorous oxychloride | 294 mmol, 27.4 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-3-methyl-1-(2-pyridinyl)-6-(trifluoromethyl)-1H-pyrazolo[3,4-b]quinoline | 7.07 g, 50% yield | ClC1=C2C(=NC3=CC=C(C=C13)C(F)(F)F)N(N=C2C)C2=NC=CC=C2 | C17H10ClF3N4
